### PR TITLE
Well-typedness theorems

### PR DESCRIPTION
**Pull request by shaobo-he-aws**
*Issue #, if available:*

*Description of changes:*

### CODE REVIEW

File: cedar-lean/Cedar/Thm/Validation/WellTyped.lean [hunk 1]
```diff
@@ -13,257 +13,351 @@
...
+      exact @well_typed_is_sound xᵢ
+    exact well_typed_is_sound_set h₀ ih h₃ h₄ h₂
+  case record m rty h₃ h₄ =>
+    have ih : ∀ a x, (a, x) ∈ m → WellTypedIsSound x := by
+      intro a x _
+      exact @well_typed_is_sound x
+    exact well_typed_is_sound_record h₀ ih h₃ h₄ h₂
+  case call xfn args ty h₃ h₄ => exact well_typed_is_sound_call h₄ h₂
+termination_by ty
+decreasing_by
```
Comment (shaobo-he-aws) [inline cedar-lean/Cedar/Thm/Validation/WellTyped.lean:279]: I currently have to do this, which seems to cause a bit of slowdown.

File: cedar-lean/Cedar/Thm/Validation/WellTyped/TypeLifting.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
...
+    simp only [type_lifting_preserves_expr a]
+  case hasAttr a _ _ =>
+    simp only [type_lifting_preserves_expr a]
+  case set s _ =>
+    simp only [List.map₁_eq_map, List.map_map, Expr.set.injEq, List.map_inj_left,
+      Function.comp_apply]
+    exact λ x _ => type_lifting_preserves_expr x
+  case record m _ =>
+    simp only [Expr.record.injEq]
+    have : m.attach₂.map (λ x => (x.1.fst, x.1.snd.toExpr)) =
```
Comment (shaobo-he-aws) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/TypeLifting.lean:53]: Will replace these with applications of proper theorems.

File: cedar-lean/Cedar/Thm/Validation/WellTyped.lean [hunk 3]
```diff
@@ -13,257 +13,351 @@
...
+      simp only [this]
+      cases b <;> simp at h₂
+      case false =>
+        have hᵢ₂ := well_typed_is_sound h₀ h₅ h₂
+        rw [←h₇] at hᵢ₂
+        exact hᵢ₂
+      case true =>
+        have hᵢ₃ := well_typed_is_sound h₀ h₄ h₂
+        exact hᵢ₃
+  case and x₁ x₂ h₃ h₄ h₅ h₆ =>
```
Comment (shaobo-he-aws) [inline cedar-lean/Cedar/Thm/Validation/WellTyped.lean:95]: Will move these proofs to dedicated files.

File: cedar-lean/Cedar/Thm/WellTyped.lean [hunk 4]
```diff
@@ -0,0 +1,363 @@
...
+open Cedar.Spec
+
+theorem well_typed_is_sound {ty : TypedExpr}  {v : Value} {env : Environment} {request : Request} {entities : Entities} :
+  RequestAndEntitiesMatchEnvironment env request entities →
+  TypedExpr.WellTyped env ty →
+  evaluate ty.toExpr request entities = .ok v →
+  InstanceOfType v ty.typeOf
+:= by
+  intro h₀ h₁ h₂
+  cases h₁ <;> try simp only [TypedExpr.toExpr, evaluate] at h₂
```
Comment (shaobo-he-aws) [inline cedar-lean/Cedar/Thm/WellTyped.lean:41]: Maybe it's better to split by `ty`.

Comment (shaobo-he-aws) [reply cedar-lean/Cedar/Thm/WellTyped.lean:41]: Easier to prove termiation.

File: cedar-lean/Cedar/Thm/WellTyped.lean [hunk 5]
```diff
@@ -0,0 +1,315 @@
...
+open Cedar.Spec
+
+theorem well_typed_is_sound {ty : TypedExpr}  {v : Value} {env : Environment} {request : Request} {entities : Entities} :
+  RequestAndEntitiesMatchEnvironment env request entities →
+  TypedExpr.WellTyped env ty →
+  evaluate ty.toExpr request entities = .ok v →
+  InstanceOfType v ty.typeOf
+:= by
+  intro h₀ h₁ h₂
+  cases h₁ <;> try simp only [TypedExpr.toExpr] at h₂
```
Comment (emina) [inline cedar-lean/Cedar/Thm/WellTyped.lean:42]: Why do `cases  h₁` instead of `induction  h₁`?  If we do induction, then we won't need the termination proof.

File: cedar-lean/Cedar/Thm/Validation/WellTyped/Definition.lean [hunk 6]
```diff
@@ -256,14 +256,20 @@ inductive TypedExpr.WellTyped (env : Environment) : TypedExpr → Prop
   (h₁ : ∀ x, x ∈ ls → WellTyped env x)
   (h₂ : ∀ x, x ∈ ls → x.typeOf = ty) :
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/Definition.lean:257]: This definition is not as strong as it could be:  let's add the hypothesis that `ts` is non-empty (also enforced by the typechecker and needed for symbolic compilation).

File: cedar-lean/Cedar/Thm/Validation/WellTyped/Definition.lean [hunk 7]
```diff
@@ -254,16 +264,23 @@ inductive TypedExpr.WellTyped (env : Environment) : TypedExpr → Prop
...
-  (h₂ : ∀ x, x ∈ ls → x.typeOf = ty) :
+  (h₂ : ∀ x, x ∈ ls → x.typeOf = ty)
+  (h₃ : ls != []) :
   WellTyped env (.set ls (.set ty))
-| record {rty : RecordType} {m : List (Attr × TypedExpr)}
+| record {m : List (Attr × TypedExpr)} {rty : Data.Map Attr QualifiedType}
   (h₁ : ∀ k v, (k,v) ∈ m → WellTyped env v)
-  -- should we require well-formedness of `m` and then rewrite h₁ using quantifiers?
-  (h₂ : rty = Map.make (m.map (λ (a, ty) => (a, .required ty.typeOf)))) :
+  (h₂ : List.Forall₂ (λ x y => x.fst = y.fst ∧ x.snd.typeOf = y.snd.getType) m rty.1) :
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/Definition.lean:272]: This new constraint is weaker than the old one.  Specifically, the old one also required the attributes of a literal record type to be required.  I think we need to preserve this constraint.  (Note that the current definition allows the attribute to be optional.)

File: cedar-lean/Cedar/Thm/WellTyped.lean [hunk 8]
```diff
@@ -0,0 +1,980 @@
...
+
+theorem typechecked_is_well_typed_after_lifting {e : Expr} {c₁ c₂ : Capabilities} {env : Environment} {ty : TypedExpr} {request : Request} {entities : Entities} :
+  --CapabilitiesInvariant c₁ request entities →
+  RequestAndEntitiesMatchEnvironment env request entities →
+  typeOf e c₁ env = .ok (ty, c₂) →
+  TypedExpr.WellTyped env ty.liftBoolTypes
+:= by
+  --intro h₁ h₂ h₃
+  intro h₂ h₃
+  cases e
```
Comment (emina) [inline cedar-lean/Cedar/Thm/WellTyped.lean:268]: I think this proof might be easier with [functional induction](https://lean-lang.org/blog/2024-5-17-functional-induction) on `typeOf`.  

(It's not always the case, but worth trying.)

Also, the individual cases will need to be broken out into separate lemmas.  Otherwise, things will be very slow to check :))

File: cedar-lean/Cedar/Thm/WellTyped.lean [hunk 9]
```diff
@@ -0,0 +1,1631 @@
...
+    apply And.intro
+    · exact lifted_type_lub (foldlM_of_lub_is_LUB heq)
+    · replace heq := foldM_lub_some heq
+      intro a h₃
+      simp only [List.mem_map, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂] at heq
+      specialize heq a h₃
+      exact lifted_type_is_top heq
+  · simp only [bne_iff_ne, ne_eq, reduceCtorEq, not_false_eq_true]
+
+theorem record_lifting_make {tys : List (Attr × TypedExpr)} :
```
Comment (emina) [inline cedar-lean/Cedar/Thm/WellTyped.lean:1534]: Here is the proof of this lemma: https://github.com/cedar-policy/cedar-spec/blob/emina/record_lifting_make/cedar-lean/Cedar/Thm/WellTyped.lean#L1534

File: cedar-lean/Cedar/Thm/Validation/WellTyped/Soundness.lean [hunk 10]
```diff
@@ -0,0 +1,659 @@
...
+      have : InstanceOfExtType (Ext.datetime v) .datetime := by
+        simp only [InstanceOfExtType]
+      exact InstanceOfType.instance_of_ext (Ext.datetime v) .datetime this
+    · cases h₂
+  case _ =>
+    rename_i dt _ _
+    have : InstanceOfExtType (Ext.duration dt.toTime) .duration := by
+      simp only [InstanceOfExtType]
+    exact InstanceOfType.instance_of_ext (Ext.duration dt.toTime) .duration this
+  case _ =>
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/Soundness.lean:648]: We can replace these remaining `case _` statements with 
```
all_goals { exact InstanceOfType.instance_of_int }
```

File: cedar-lean/Cedar/Thm/WellTyped.lean [hunk 11]
```diff
@@ -0,0 +1,108 @@
...
+  case getAttr_record h₄ h₅ hᵢ=>
+    exact well_typed_is_sound_get_attr_record hᵢ h₄ h₅ h₃
+  case set ls ty _ h₄ _ hᵢ =>
+    exact well_typed_is_sound_set hᵢ h₄ h₃
+  case record rty m hᵢ₁ h₄ hᵢ =>
+    exact well_typed_is_sound_record hᵢ h₄ h₃
+  case call xfn args ty _ h₄ _ =>
+    exact well_typed_is_sound_call h₄ h₃
+
+/-- The type checker should produce a typed expression, which after type
```
Comment (emina) [inline cedar-lean/Cedar/Thm/WellTyped.lean:69]: How about:  "The type checker produces typed expressions that are well-typed after type lifting."

**Review by emina — APPROVED** [review]
Looks great to me!

File: cedar-lean/Cedar/Thm/Validation/WellTyped/Definition.lean [hunk 12]
```diff
@@ -60,18 +60,28 @@ inductive UnaryOp.WellTyped : UnaryOp → TypedExpr → CedarType → Prop
...
     (h₁ : x₁.typeOf = .string) :
     WellTyped (.like p) x₁ (.bool .anyBool)
+  | is {ety₁ ety₂ : EntityType}
+    (h₁ : x₁.typeOf = .entity ety₂) :
+    WellTyped (.is ety₁) x₁ (.bool .anyBool)
 
 inductive BinaryOp.WellTyped (env : Environment) : BinaryOp → TypedExpr → TypedExpr → CedarType → Prop
+  | eq_lit {p₁ p₂ : Prim} {ty₁ ty₂ : CedarType} :
+    -- do we need hypothesis like `InstanceOfType (.prim p₁) ty₁`?
+    WellTyped env .eq (.lit p₁ ty₁) (.lit p₂ ty₂) (.bool .anyBool)
```
Comment (adpaco-aws) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/Definition.lean:70]: Did you find out?

File: cedar-lean/Cedar/Thm/Validation/WellTyped/Soundness.lean [hunk 13]
```diff
@@ -0,0 +1,650 @@
...
+{v : Value}
+{var : Var}
+{env : Environment}
+{request : Request}
+{entities : Entities}
+{ty : CedarType}
+(h₁ : RequestAndEntitiesMatchEnvironment env request entities)
+(h₂ : Var.WellTyped env var ty)
+(h₃ : evaluate (Expr.var var) request entities = Except.ok v) :
+InstanceOfType v (TypedExpr.var var ty).typeOf
```
Comment (adpaco-aws) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/Soundness.lean:63]: Looks like we're adding space before `InstanceOf ...` (the goal) in the other well-typed theorems. Do you want to the same for this one and `well_typed_is_sound_lit`?

File: cedar-lean/Cedar/Thm/Validation/WellTyped/Soundness.lean [hunk 14]
```diff
@@ -0,0 +1,650 @@
...
+      · exact hᵢ
+
+theorem well_typed_is_sound_record
+{v : Value}
+{request : Request}
+{entities : Entities}
+{m : List (Attr × TypedExpr)}
+{rty : RecordType}
+(h₁ : ∀ (k : Attr) (v : TypedExpr),
+  (k, v) ∈ m → ∀ (v_1 : Value), evaluate v.toExpr request entities = Except.ok v_1 → InstanceOfType v_1 v.typeOf)
```
Comment (adpaco-aws) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/Soundness.lean:523]: Did you intend to have `v_1`? Why not `v'`?

File: cedar-lean/Cedar/Thm/Validation/WellTyped/TypeLifting.lean (hunk 2 above)
Comment (adpaco-aws) [reply cedar-lean/Cedar/Thm/Validation/WellTyped/TypeLifting.lean:60]: Does this still need to change?

File: cedar-lean/Cedar/Thm/Validation/WellTyped/TypeLifting.lean [hunk 15]
```diff
@@ -0,0 +1,354 @@
...
+        case some =>
+          simp [h] at heq₁
+          simp [h, hᵢ₁, heq₁]
+      case _ => cases hᵢ₂
+    case _ => cases hᵢ₁
+mutual
+
+theorem lifted_record_type_is_top {r₁ r₂ : List (Attr × Qualified CedarType)} :
+  IsLubOfRecordTypes r₂ r₁ r₂ →
+  CedarType.liftBoolTypesRecord r₁ = CedarType.liftBoolTypesRecord r₂
```
Comment (adpaco-aws) [inline cedar-lean/Cedar/Thm/Validation/WellTyped/TypeLifting.lean:251]: I don't understand why we define it like this.

**Review by adpaco-aws — APPROVED** [review]

**Comment by shaobo-he-aws** [comment]
@adpaco-aws thanks for your review. I will merge it first and then address your comments when TPE soundness proofs are ready.
